US04317820
5.5 g of 4-chlorooxindole was dissolved in 80 ml of dioxane and 6.2 g of sodium borohydride was suspended in the resulting solution. 12.7 ml of trifluoroacetic acid (d=1.48) was added thereto dropwise at room temperature while stirring. After heat-refluxing the mixture for 4.5 hours, the solvent was removed therefrom under reduced pressure. Water was added to the residue and the water-insoluble materials were removed by filtration and washed with diethyl ether. The filtrate was extracted with diethyl ether and the ether layer was dried over anhydrous sodium sulfate followed by removing the solvent. The residue was distilled under reduced pressure to obtain 3.9 g of 4-chloroindoline as a colorless oily product having a boiling point of 135° C. at 10 mm Hg.

reactant | 4-chlorooxindole | 5.5 g | ClC1=C2CC(NC2=CC=C1)=O | C8H6ClNO
reactant | sodium borohydride | 6.2 g | [BH4-].[Na+]
reactant | trifluoroacetic acid | 12.7 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dioxane | 80 ml | O1CCOCC1 | C4H8O2
product | 4-chloroindoline | 3.9 g | ClC1=C2CCNC2=CC=C1 | C8H8ClN
